US06303790B1
0.5 g (1.29 mMol) N-Benzyl-6-morpholin-4-yl-4-o-tolyl-nicotinamide was dissolved in 2.5 ml methanesulfonic acid and 0.25 ml sulfuric acid and heated to 100° C. for 1 hour. A second portion of 0.25 ml sulfuric acid was added and heating was pursued for 22 hours. After cooling to room temperature, the reaction mixture was poured onto 75 ml aqueous saturated sodium carbonate, cooled with ice and extracted with ethyl acetate. The combined organic extracts were washed with aqueous saturated sodium carbonate and brine, dried (Na2SO4) and concentrated. The residue was flash chromatographed (eluent: dichloromethane/methanol 95:5) to yield 0.15 g (39%) 6-morpholin-4-y1-4-o-tolyl-nicotinamide as a yellow resin.

reactant | N-Benzyl-6-morpholin-4-yl-4-o-tolyl-nicotinamide | 1.29 mMol, 0.5 g | C(C1=CC=CC=C1)NC(C1=CN=C(C=C1C1=C(C=CC=C1)C)N1CCOCC1)=O | C24H25N3O2
reactant | sulfuric acid | 0.25 ml | S(O)(O)(=O)=O | H2O4S
reactant | sulfuric acid | 0.25 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | 75 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanesulfonic acid | 2.5 ml | CS(=O)(=O)O | CH4O3S
product | 6-morpholin-4-y1-4-o-tolyl-nicotinamide | 0.15 g, 39% | N1(CCOCC1)C1=NC=C(C(=O)N)C(=C1)C1=C(C=CC=C1)C | C17H19N3O2
